US04067896
Twenty grams (0.091 mole) of 2-(chloromethoxy)-1,1'-biphenyl was thereafter dissolved in 200 ml anhydrous acetone. To this solution was added 9.72 g (0.100 mole) potassium thiocyanate. The resulting mixture was stirred and refluxed for 6.5 hours, whereupon it was diluted with 500 ml ice water and extracted with ether. The extracts were dried with MgSO4 and concentrated to give an orange oil which was distilled in vacuo to give 14.32 g of 2-(isothiocyanatomethoxy)-1,1'-biphenyl as a pale yellow oil, boiling at 169°-171° C at 1.0 mm pressure.

reactant | 2-(chloromethoxy)-1,1'-biphenyl | 0.091 mole, Twenty grams | ClCOC1=C(C=CC=C1)C1=CC=CC=C1 | C13H11ClO
reactant | potassium thiocyanate | 0.100 mole, 9.72 g | [S-]C#N.[K+]
solvent | acetone | 200 ml | CC(=O)C | C3H6O
product | 2-(isothiocyanatomethoxy)-1,1'-biphenyl | 14.32 g | N(=C=S)COC1=C(C=CC=C1)C1=CC=CC=C1 | C14H11NOS
